US06849640B2
A dry 25 mL round bottom flask was charged with di(tert-butyl) 8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro-1H-pyrido[4,3-b]indole-2,5-dicarboxylate (0.38 g, 0.74 mmol), DMF (10 mL), N-bromosuccinimide (0.21 g, 1.11 mmol), and stirred at ambient temperature for 18 hours. The reaction was concentrated under high vacuum to remove DMF and partitioned between water and ethyl acetate (2X). The organics were combined, dried with MgSO4, filtered and concentrated to give 461 mg of a crude orange brown oil. Purification of the crude on a 40 gram silica Biotage column using 10% ethyl acetate in heptane gave 217 mg (50%) of di(tert-butyl) 6-bromo-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro-1H-pyrido[4,3-b]indole-2,5-dicarboxylate as a pale yellow foam.

reactant | di(tert-butyl) 8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro-1H-pyrido[4,3-b]indole-2,5-dicarboxylate | 0.74 mmol, 0.38 g | ClC1=C(C=CC(=C1)Cl)C1=CC=2C3C(N(C2C=C1)C(=O)OC(C)(C)C)CCN(C3)C(=O)OC(C)(C)C | C27H32Cl2N2O4
reactant | N-bromosuccinimide | 1.11 mmol, 0.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | di(tert-butyl) 6-bromo-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro-1H-pyrido[4,3-b]indole-2,5-dicarboxylate | 217 mg, 50% | BrC1=CC(=CC=2C3C(N(C12)C(=O)OC(C)(C)C)CCN(C3)C(=O)OC(C)(C)C)C3=C(C=C(C=C3)Cl)Cl | C27H31BrCl2N2O4
